Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:14].[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.49971642383
[C:2](#[C:3][H:4])[C:7]([H:8])([H:9])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:10]([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-1.56375155291
[C:3]([H:4])([H:5])[H:6].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[H:6],-1.5024586240600002
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.02913581583
[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[H:9],-1.6712621141
[C:2]=[C:3]([H:4])[H:5].[H:1]>>[H:1][C:2]=[C:3]([H:4])[H:5],-3.90259507919
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16],-1.82881743477
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4],1.63469113473
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9],2.75997747235
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:3],2.41227308742
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],4.5584979212
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:10][H:11]>>[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:10][H:11],7.19108076525
[H:10].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.618201482230001
[C:8][H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[O:7]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[O:7][C:8][H:9],-3.06047007115
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:9].[O:8],5.71098975674
[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.40188229612
[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],2.02149197653
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2][O:3][C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.37661926265
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17],4.319489162180002
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],3.67163419764
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.79735255652
[C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.16519377314
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8][H:9]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.76884214425
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4],3.6116606412
[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[H:10].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-0.5353388183209999
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:7][H:8])[O:9][H:10]>>[C:4](\[H:5])(=[C:6]\[O:7][H:8])[O:9][H:10].[H:1][C:2]#[C:3],3.90628900112
[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11],-4.65782618046
[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[O:1]=[C:2][O:3][C:4]#[C:5][H:6],5.76920933685
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],7.2933400106600015
